datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S:10]C([H])C(C)C([H])[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][S+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(CC)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)CCCCCC)CC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)CCCCCC)CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C)[S]1 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[OH:21][C:20]2(C)C(C([H])C3=C([OH+:10]2)C=CC=C3)[H]>>[OH:10]C(C=CC=C1)=C1C([H])C([C:20](C)=[OH+:21])[H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H][O:10]C(C)C([H])[O][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)[H])CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)C>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCC)C.[O-:21]C1=CC=CC=C1>>CCCCCCN([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)C1=CC=CC=C1)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C1=CC=CC=C1)C 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21][H]>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)[H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][O:10]C([H])C(C)[NH][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[OH:10]C(CC)C(C)C(C)C(C)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)C(C)C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C(C)C([H])N1[H]>>[O-:10]C(C)C([H])N([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)[H])CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]C>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CC)CC 21=20;20,10=10"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)C1=CC=CC=C1)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C1=CC=CC=C1)CC 10=20;20,21=21"
"CCC1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC>>CCC1C(O[C:20](=[O:10])N1CC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O:10]([K])C(CCC)/C(O)=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[O+:10]([K])C(CCC)C(O)=C1[H] 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
